US07994185B2
Step A: N-{3-[2-(1,1-dimethylethyl)-5-(2-ethenyl-4-pyrimidinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide
N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide (0.421 g, 0.781 mmol), potassium vinyl trifluoroborate (0.262 g, 1.953 mmol), PdCl2(dppf)2 (0.057 g, 0.078 mmol), and triethylamine (1.089 ml, 7.81 mmol) in n-propanol (7.81 ml) were heated at 100° C. in a screw-top vial overnight. The reaction mixture was filtered through celite and the celite rinsed with EtOAc. The combined organic portions were washed with water, dried over MgSO4, filtered and concentrated to dryness. The crude mixture was placed on silica gel and chromatography (0 to 80% DCM/EtOAc, gradient) to obtain the title compound (350 mg, 84%). 1H NMR (400 MHz, DMSO-d6) d ppm 10.88 (s, 1H), 8.56 (d, J=5.31 Hz, 1H), 7.67 (ddd, J=14.28, 8.15, 6.13 Hz, 1H), 7.43 (t, J=7.60 Hz, 2H), 7.31 (t, J=7.69 Hz, 1H), 7.22 (t, J=9.25 Hz, 2H), 6.74 (m, 2H), 6.44 (dd, J=17.58, 1.65 Hz, 1H), 5.75 (dd, J=10.62, 2.01 Hz, 1H), 1.43 (m, 9H); MS (ESI): 531 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | 0.781 mmol, 0.421 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C23H18ClF3N4O2S2
reactant | triethylamine | 7.81 mmol, 1.089 ml | C(C)N(CC)CC | C6H15N
solvent | n-propanol | 7.81 ml | C(CC)O | C3H8O
catalyst | PdCl2(dppf)2 | 0.078 mmol, 0.057 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-{3-[2-(1,1-dimethylethyl)-5-(2-ethenyl-4-pyrimidinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | 350 mg, 84% | CC(C)(C)C=1SC(=C(N1)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F)C1=NC(=NC=C1)C=C | C25H21F3N4O2S2
